US06930120B2
2-(4-Chlorophenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid
The title compound was prepared from 2-(4-chlorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester by the procedure of Example 29. 1H NMR (400 MHz, CDCl3) δ 7.19 (d, 2H, J=8.60 Hz), 7.16 (d, 2H, J=8.60 Hz), 6.83 (d, 2H, J=8.60 Hz), 6.79 (d, 2H, J=8.60 Hz), 4.12 (t, 2H, J=6.26 Hz), 3.21 (d, 1H, J=14.08 Hz), 3.11 (d, 1H, J=14.08 Hz), 2.95 (t, 2H, J=6.26 Hz), 2.89-2.83 (m, 3H), 2.05 (d, 2H, J=11.73 Hz), 1.80 (d, 2H, J=11.73 Hz), 1.55 (q, 2H, J=11.73 Hz), 1.40 (s, 3H), 1.37-1.20 (m, 4H). MS (ES+) m/z mass calcd for C28H33ClNO5 498.21, found 498.2.

reactant | 2-(4-chlorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)Cl)=O | C18H19ClO4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 2-(4-Chlorophenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid | ClC1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2CCCCC2)C)C=C1 | C28H32ClNO5
